US09034866B2
Synthesis of (±)-9-fluoro-10-(3-hydroxy-3-(1H-imidazol-4-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)but-3-yn-2-ol and following removal of the SEM protecting group (nBu4F, THF) gave the titled compound as an off-white solid. (1.5 mg, 3%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 2-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)but-3-yn-2-ol | C[Si](CCOCN1C=NC(=C1)C(C)(C#C)O)(C)C | C13H22N2O2Si
product | (±)-9-fluoro-10-(3-hydroxy-3-(1H-imidazol-4-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | FC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC(C)(C=1N=CNC1)O | C19H16FN5O3
